US04218448
To a solution of 6-[2,2,2-trifluoro-1-benzyloxy-1-(trifluoromethyl)ethyl]-4,8-dimethyl-2(1H)-quinolinone in dimethylformamide is added an equivalent of thallium ethoxide. The solution is stirred under nitrogen. To the solution is added methyl iodide, and the solution is stirred and heated to 50° until thin layer chromatography indicates the reaction is complete. The solution is cooled and treated with 5 ml of methanol. The cooled solution is filtered and evaporated at reduced pressure. The residual material is extracted with hexane and the filtered solution is evaporated at reduced pressure. The residual material is heated to 250° in a nitrogen atmosphere for 4 hours. At the end of this period, the residual material is chromatographed on silicic acid to give 6-[2,2,2-trifluoro-1-benzyloxy-1-(trifluoromethyl)ethyl]-1,4,8-trimethyl-2(1H)-quinolinone.

reactant | 6-[2,2,2-trifluoro-1-benzyloxy-1-(trifluoromethyl)ethyl]-4,8-dimethyl-2(1H)-quinolinone | FC(C(C(F)(F)F)(OCC1=CC=CC=C1)C=1C=C2C(=CC(NC2=C(C1)C)=O)C)(F)F | C21H17F6NO2
reactant | thallium ethoxide | [O-]CC.[Tl+]
reactant | methyl iodide | CI | CH3I
reactant | methanol | 5 ml | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[2,2,2-trifluoro-1-benzyloxy-1-(trifluoromethyl)ethyl]-1,4,8-trimethyl-2(1H)-quinolinone | FC(C(C(F)(F)F)(OCC1=CC=CC=C1)C=1C=C2C(=CC(N(C2=C(C1)C)C)=O)C)(F)F | C22H19F6NO2
